US07098203B2
Isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-ethyl-4-phenylazepane
Isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane (3 mg), in glacial acetic acid (0.05 mL) was added sodium borohydride (2 mg) in two portions. After addition, the mixture was stirred at room temperature for overnight. The mixture was concentrated under vacuum. Then saturated sodium bicarbonate and dichloromethane was added to the mixture and the organic layer was separated. The aqueous layer was extracted with dichloromethane 2 times and the combined organic layers were dried over magnesium sulfate, filtered and concentrated under vacuum to give the product as a clear colorless sticky oil (1.8 mg, 56% yield).

reactant | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane | 3 mg | FC(C=1C=C(COCC2(CCNCCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H23F6NO
reactant | sodium borohydride | 2 mg | [BH4-].[Na+]
reactant | acetic acid | 0.05 mL | C(C)(=O)O | C2H4O2
product | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-ethyl-4-phenylazepane | 1.8 mg, 56% yield | FC(C=1C=C(COCC2(CCN(CCC2)CC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C24H27F6NO
